US05494887
14. Preparation of 2-Benzylthio-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine
A mixture of 17.7 g (52 mmol) of 3-benzylthio-5-methylthiopyrido[3,2-e][1,2,4]triazolo[4,3-c]pyrimidine in 200 mL of methanol was prepared and to this was added at ambient temperature with stirring 8.5 mL (7.8 g, 78 mmol) of ethyl acrylate and 2.4 mL of 25 percent sodium methoxide in methanol (10 mmol). Everything dissolved fairly quickly and after 15 min new precipitate formed. After about 1 hour the mixture was acidified with acetic acid and the volatile components were removed by evaporation under reduced pressure. The residue was dissolved in dichloromethane and the resulting solution was washed with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was diluted with ether, recovered by filtration, and dried to obtain 14.6 g of the title compound as a brown powder melting at 282°-284° C. with decomposition.

reactant | 3-benzylthio-5-methylthiopyrido[3,2-e][1,2,4]triazolo[4,3-c]pyrimidine | 52 mmol, 17.7 g | C(C1=CC=CC=C1)SC1=NN=C2N1C(=NC1=C2C=CC=N1)SC | C16H13N5S2
reactant | ethyl acrylate | 78 mmol, 8.5 mL, 7.8 g | C(C=C)(=O)OCC | C5H8O2
reactant | sodium methoxide | 2.4 mL | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 10 mmol | CO | CH4O
product | 2-Benzylthio-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine | 14.6 g | C(C1=CC=CC=C1)SC1=NN2C(=NC3=C(C2=N1)C=CC=N3)OC | C16H13N5OS
